US07989441B2
To a solution of (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester (83 mg, 2.5 mmol) in DMF (10 mL) at room temperature, is added diisopropylethylamine (1.4 mL) slowly. After stirring at room temperature for 20 minutes, to the reaction mixture, is added phenethylamine (445 mg, 3.67 mmol), and followed by a solution of HOBT (545 mg, 4.04 mmol) and HBTU (1.53 g, 4.04 mmol) in DMF (10 mL). After stirring for 1.5 hours at room temperature, the reaction solution is diluted with ether (100 mL), and washed with water (2×50 mL). The combined organic solution is concentrated. The crude product is diluted with CH2Cl2 and dried over Na2SO4, and purified by chromatography (CH2Cl2/MeOH:97/3) to give (S)-3-phenethyl carbamoyl-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester as pale gum (920 mg, 83.6% in two steps). (NMR and MS data confirmed, U-3133-57-26).

reactant | (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester | 2.5 mmol, 83 mg | C(C)(C)(C)OC(=O)N1N([C@@H](CCC1)C(=O)O)C(=O)OC(C)(C)C | C15H26N2O6
reactant | diisopropylethylamine | 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenethylamine | 3.67 mmol, 445 mg | C(CC1=CC=CC=C1)N | C8H11N
reactant | HOBT | 4.04 mmol, 545 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 4.04 mmol, 1.53 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ether | 100 mL | CCOCC | C4H10O
product | (S)-3-phenethyl carbamoyl-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1N([C@](CCC1)(CCC1=CC=CC=C1)C(N)=O)C(=O)OC(C)(C)C | C23H35N3O5
